US07001897B2
To a solution of (3R)-3-methanesulfonyloxy-1-(p-nitrobenzyloxycarbonyl)-pyrrolidine (4.00 g, 11.6 mmol) (obtained as described in Reference Example 52(2)) in dimethylformamide (120 ml) was added sodium azide (831 mg, 12.8 mmol), and the mixture was stirred in an oil bath (100° C.) for 2 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (3:1→1:2) as the eluant to afford (3S)-3-azido-1-(p-nitrobenzyloxycarbonyl)pyrrolidine (3.43 g, yield 100%) as a pale yellow solid.

reactant | (3R)-3-methanesulfonyloxy-1-(p-nitrobenzyloxycarbonyl)-pyrrolidine | 11.6 mmol, 4.00 g | CS(=O)(=O)O[C@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O7S
reactant | sodium azide | 12.8 mmol, 831 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | (3S)-3-azido-1-(p-nitrobenzyloxycarbonyl)pyrrolidine | 3.43 g, yield 100% | N(=[N+]=[N-])[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C12H13N5O4
